* Device models for the simulations in modules/<name>/sim/.
*
* These are OURS, built from datasheet numbers, not vendor files. That is a
* deliberate choice and it cuts both ways.
*
* For: every parameter below can be traced to a published figure, which is
* what M4 asks for, and there is no question about redistributing someone
* else's model in this repository.
*
* Against: a hand-built macromodel is only as good as the behaviours it was
* built to capture. These capture small-signal gain, bandwidth, slew and
* output swing. They do NOT capture distortion, noise, temperature drift,
* input-stage phase inversion on overload, supply-current behaviour, or
* anything about latch-up or protection. A result that depends on one of
* those is not evidence; say so rather than quoting it.
*
* Sources, recorded as M4 requires:
*   TL072  - TI TL07xx datasheet SLOS080, "TL072, TL072A, TL072B" electrical
*            characteristics at Vcc = +/-15 V, Ta = 25 C. Typical column.
*   B5819W - generic 40 V 1 A surface-mount Schottky; parameters fitted to
*            the commonly published forward-voltage curve, NOT taken from a
*            manufacturer model. Adequate for a series supply diode's drop;
*            not for reverse recovery or leakage over temperature.

* --------------------------------------------------------------------------
* TL072 dual JFET-input op-amp, one unit.
*
* Pin order (inp inn vcc vee out) is this file's own convention and is what
* Emit/Spice.hs emits.
*
* Datasheet figures used, all typical at +/-15 V:
*   large-signal voltage gain      200 V/mV        -> Aol  = 2e5
*   unity-gain bandwidth           3 MHz           -> GBW  = 3e6
*   slew rate                      13 V/us         -> SR   = 13e6 V/s
*   input bias current             30 pA           -> Ib
*   input offset voltage           3 mV            -> Vos
*   output swing                   +/-13.5 V at
*                                  Vcc +/-15, RL 10k -> 1.5 V of headroom
*
* Construction: a transconductance stage into a single dominant pole, with
* the stage's current clipped so that the pole capacitor's dV/dt is the
* datasheet slew rate, then a rail-clamped output with a series resistance.
*
*   C1 = 30 pF chosen, then
*   gm   = 2*pi*GBW*C1 = 565.5 uA/V
*   R1   = Aol/gm      = 353.7 MOhm
*   Islew = C1*SR      = 390 uA
.subckt TL072 inp inn vcc vee out
* Input stage: JFET gates, so essentially open, with the bias current and
* offset that the datasheet quotes.
Rin    inp inn 1T
Ibp    0 inp 30p
Ibn    0 inn 30p
Vos    inn inx DC 3m
* Transconductance with a hard current limit: this is what makes the model
* slew rather than merely roll off.
Bgm    0 n1 I = max(min(565.5u*V(inp,inx), 390u), -390u)
R1     n1 0 353.7meg
C1     n1 0 30p
* Output: clamped 1.5 V short of each rail, behind the open-loop output
* resistance. The clamp is why an overdriven channel stops at the rail here
* instead of running away, but it is a clamp and not a real output stage.
Bout   n2 0 V = max(min(V(n1), V(vcc) - 1.5), V(vee) + 1.5)
Rout   n2 out 100
* Quiescent supply current, 1.4 mA per amplifier (datasheet typical). Without
* it the model draws nothing from the rails and the series Schottkys show no
* drop, which reads as a perfectly stiff supply and is not what gets built.
*
* Note what this still does not do: output load current is supplied by the
* ideal source above, not drawn from vcc/vee, so a rail figure from this
* model accounts for quiescent draw only. Anything that turns on output
* current into a load needs a better model than this one.
Iq     vcc vee 1.4m
.ends TL072

* --------------------------------------------------------------------------
* B5819W 40 V 1 A Schottky, as used in series with each supply rail.
*
* Fitted so the forward drop lands near 0.22 V at 50 mA and 0.35 V at 1 A,
* which is where the published curves sit. Reverse leakage is the weakest
* part of this model and is not used by anything here.
.model B5819W D(IS=2e-5 N=1.05 RS=0.05 CJO=100p M=0.33 VJ=0.4 BV=40 IBV=1e-4)
