* Device models for the simulations in modules/<name>/sim/.
*
* These are OURS, built from datasheet numbers, not vendor files. That is a
* deliberate choice and it cuts both ways.
*
* For: every parameter below can be traced to a published figure, which is
* what M4 asks for, and there is no question about redistributing someone
* else's model in this repository.
*
* Against: a hand-built macromodel is only as good as the behaviours it was
* built to capture. These capture small-signal gain, bandwidth, slew and
* output swing. They do NOT capture distortion, noise, temperature drift,
* input-stage phase inversion on overload, supply-current behaviour, or
* anything about latch-up or protection. A result that depends on one of
* those is not evidence; say so rather than quoting it.
*
* Sources, recorded as M4 requires:
*   TL072  - TI TL07xx datasheet SLOS080, "TL072, TL072A, TL072B" electrical
*            characteristics at Vcc = +/-15 V, Ta = 25 C. Typical column.
*   B5819W - generic 40 V 1 A surface-mount Schottky; parameters fitted to
*            the commonly published forward-voltage curve, NOT taken from a
*            manufacturer model. Adequate for a series supply diode's drop;
*            not for reverse recovery or leakage over temperature.
*   OPA2197 - TI SBOS737C (OPA197/2197/4197), March 2018, electrical
*            characteristics at Vs = +/-4 V to +/-18 V, Ta = 25 C, read from
*            TI's HTML datasheet viewer on 2026-09-13. Maximum column where
*            one exists, because this model exists to check an error budget
*            built from maxima; typical where no maximum is published.
*   REF5050 - TI SBOS410O (REF50xx), October 2025, standard (AI) grade,
*            same source and date. Maximum column where one exists.

* --------------------------------------------------------------------------
* TL072 dual JFET-input op-amp, one unit.
*
* Pin order (inp inn vcc vee out) is this file's own convention and is what
* Emit/Spice.hs emits.
*
* Datasheet figures used, all typical at +/-15 V:
*   large-signal voltage gain      200 V/mV        -> Aol  = 2e5
*   unity-gain bandwidth           3 MHz           -> GBW  = 3e6
*   slew rate                      13 V/us         -> SR   = 13e6 V/s
*   input bias current             30 pA           -> Ib
*   input offset voltage           3 mV            -> Vos
*   output swing                   +/-13.5 V at
*                                  Vcc +/-15, RL 10k -> 1.5 V of headroom
*
* Construction: a transconductance stage into a single dominant pole, with
* the stage's current clipped so that the pole capacitor's dV/dt is the
* datasheet slew rate, then a rail-clamped output with a series resistance.
*
*   C1 = 30 pF chosen, then
*   gm   = 2*pi*GBW*C1 = 565.5 uA/V
*   R1   = Aol/gm      = 353.7 MOhm
*   Islew = C1*SR      = 390 uA
.subckt TL072 inp inn vcc vee out
* Input stage: JFET gates, so essentially open, with the bias current and
* offset that the datasheet quotes.
Rin    inp inn 1T
Ibp    0 inp 30p
Ibn    0 inn 30p
Vos    inn inx DC 3m
* Transconductance with a hard current limit: this is what makes the model
* slew rather than merely roll off.
Bgm    0 n1 I = max(min(565.5u*V(inp,inx), 390u), -390u)
R1     n1 0 353.7meg
C1     n1 0 30p
* Output: clamped 1.5 V short of each rail, behind the open-loop output
* resistance. The clamp is why an overdriven channel stops at the rail here
* instead of running away, but it is a clamp and not a real output stage.
Bout   n2 0 V = max(min(V(n1), V(vcc) - 1.5), V(vee) + 1.5)
Rout   n2 out 100
* Quiescent supply current, 1.4 mA per amplifier (datasheet typical). Without
* it the model draws nothing from the rails and the series Schottkys show no
* drop, which reads as a perfectly stiff supply and is not what gets built.
*
* Note what this still does not do: output load current is supplied by the
* ideal source above, not drawn from vcc/vee, so a rail figure from this
* model accounts for quiescent draw only. Anything that turns on output
* current into a load needs a better model than this one.
Iq     vcc vee 1.4m
.ends TL072

* --------------------------------------------------------------------------
* B5819W 40 V 1 A Schottky, as used in series with each supply rail.
*
* Fitted so the forward drop lands near 0.22 V at 50 mA and 0.35 V at 1 A,
* which is where the published curves sit. Reverse leakage is the weakest
* part of this model and is not used by anything here.
.model B5819W D(IS=2e-5 N=1.05 RS=0.05 CJO=100p M=0.33 VJ=0.4 BV=40 IBV=1e-4)

* --------------------------------------------------------------------------
* OPA2197 dual precision op-amp (rail-to-rail in and out), one unit.
*
* Same pin order and the same construction as the TL072 above, with three
* additions the TL072 model lacks and the attenuverter's error budget needs:
* input capacitance (it is what the feedback capacitor is there to tame, so
* a stability check without it would be checking nothing), a second
* open-loop pole (a single-pole model has 90 degrees of phase margin by
* construction, so a phase-margin assertion against it would be vacuous),
* and offset drift with temperature through SPICE's TEMPER variable.
*
* Datasheet figures used (SBOS737C section 6.7, +/-4 to +/-18 V table):
*   input offset voltage        +/-25 uV typ, +/-100 uV max   -> Vos = 100 uV
*   offset drift                +/-0.5 typ, +/-2.5 uV/C max   -> 2.5 uV/C
*   input bias current          +/-5 pA typ, +/-20 pA max     -> Ib = 20 pA
*   differential input Z        100 MOhm || 1.6 pF
*   common-mode input Z         1e13 Ohm || 6.4 pF
*   open-loop gain              120 dB min, 134 dB typ (2k)   -> Aol = 5e6
*   unity-gain bandwidth        10 MHz typ                    -> GBW = 10e6
*   slew rate                   20 V/us typ                   -> SR = 20e6
*   open-loop output impedance  375 Ohm at 1 MHz              -> Rout = 375
*   output swing from rail      95 mV typ, 125 mV max, RL 10k -> 125 mV clamp
*   quiescent current           1.0 mA typ, 1.3 mA max        -> Iq = 1.3 mA
*
* Not in the datasheet as a number, and therefore an assumption: the phase
* margin of the bare amplifier at unity gain. The datasheet says it drives
* 1 nF directly and its table 3 recovers 45 degrees with 47 Ohm in series with
* 100 pF, which is consistent with a second pole around twice the GBW; the
* second pole below is placed at 20 MHz, giving 63 degrees at unity gain.
* A deck result that turns on this number to within 10 degrees should say
* so.
*
* Construction:
*   C1 = 30 pF chosen, then
*   gm    = 2*pi*GBW*C1 = 1.885 mA/V
*   R1    = Aol/gm      = 2.653 GOhm
*   Islew = C1*SR       = 600 uA
*   second pole: R2 = 1k, C2 = 7.958 pF -> 20 MHz
*
* Still not modelled: noise, distortion, CMRR and PSRR as finite numbers
* (the inputs here are ideal to common mode and supply), output current
* drawn from the rails, the change of offset in the top 1.5 V of the
* common-mode range, thermal shutdown, and anything about overload beyond
* a clamp at the rail.
.subckt OPA2197 inp inn vcc vee out
Rin    inp inn 100meg
Cid    inp inn 1.6p
Cicp   inp 0 6.4p
Cicn   inn 0 6.4p
Ibp    0 inp 20p
Ibn    0 inn 20p
* Offset at 25 C plus the maximum drift, both with the same sign: the
* worst case the budget uses. TEMPER is ngspice's circuit temperature in C.
Bvos   inx inn V = 100u + 2.5u*(TEMPER - 25)
Bgm    0 n1 I = max(min(1.885m*V(inp,inx), 600u), -600u)
R1     n1 0 2.653g
C1     n1 0 30p
* Second pole.
Bp2    0 n2 I = V(n1)/1k
R2     n2 0 1k
C2     n2 0 7.958p
* Rail-to-rail output: clamped 125 mV short of each rail, behind the
* open-loop output resistance. A clamp, not an output stage.
Bout   n3 0 V = max(min(V(n2), V(vcc) - 0.125), V(vee) + 0.125)
Rout   n3 out 375
Iq     vcc vee 1.3m
.ends OPA2197

* --------------------------------------------------------------------------
* REF5050 5.000 V series reference, standard (AI) grade.
*
* Pin order (vin gnd nr vout) is this file's convention and is what
* Emit/Spice.hs emits for a Reference_Voltage symbol: KiCad's REF50xx pins
* 2, 4, 5, 6. The TEMP pin is not modelled.
*
* Datasheet figures used (SBOS410O section 6.5, Ta = 25 C, CL = 1 uF):
*   output voltage              5.000 V, +/-0.1 % initial (not modelled: the
*                               knob absorbs the absolute value, the budget
*                               only cares about movement)
*   temperature coefficient     3 typ, 8 ppm/C max             -> 8 ppm/C
*   line regulation             1 typ, 3 ppm/V max             -> 3 ppm/V
*   load regulation             20 typ, 30 ppm/mA max          -> 0.15 Ohm
*   minimum headroom            Vin >= Vout + 0.2 V unloaded  -> dropout clamp
*   quiescent current           0.8 typ, 1.0 mA max            -> 1.0 mA
*   output current              +/-10 mA recommended (not enforced here)
*   noise reduction pin         internal resistor with an external 1 uF
*                               gives a 10-20 Hz corner            -> 10 kOhm
*
* Construction: an ideal reference whose value moves with supply and
* temperature at the datasheet maxima, filtered through the NR pin's internal
* resistor so the external capacitor does what the datasheet says it does,
* then a rail-limited buffer behind the load-regulation resistance.
*
* Not modelled: noise (0.9 uVrms/V, 10 Hz to 1 kHz), the +/-0.1 % initial
* error, thermal hysteresis, long-term drift, short-circuit current, and
* start-up behaviour beyond the NR filter's time constant.
.subckt REF5050 vin gnd nr vout
Bref   nref gnd V = 5.0*(1 + 3e-6*(V(vin,gnd) - 5.2) + 8e-6*(TEMPER - 25))
Rnr    nref nr 10k
* Dropout: the output cannot rise above the supply less 0.2 V.
Bout   nout gnd V = min(V(nr,gnd), V(vin,gnd) - 0.2)
Rload  nout vout 0.15
Iq     vin gnd 1.0m
.ends REF5050
